US06673795B2
In analogy to the procedure described in example 57a, the 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbonitrile (J. Heterocycl. Chem. 1971, 8, 445-453) was treated with 4-phenyl-piperidine in the presence of N-ethyl-diisopropylamine at room temperature during 18 hours to yield the 4-chloro-2-methylsulfanyl-6-(4-phenyl-piperidin-1-yl)-pyrimidine-5-carbonitrile as an amorphous, white solid; MS: [M+H]+=345.

reactant | 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)Cl)SC | C6H3Cl2N3S
reactant | 4-phenyl-piperidine | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
product | 4-chloro-2-methylsulfanyl-6-(4-phenyl-piperidin-1-yl)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)N1CCC(CC1)C1=CC=CC=C1)SC | C17H17ClN4S
